### PR TITLE
[Merged by Bors] - chore(Mathlib/Algebra/Lie): rename theorems for consistency

### PR DESCRIPTION
**Pull request by artie2000**
Moves:
- `*coeSubmodule*`, `*coe_toSubmodule*`, `*to_submodule*`, `*coe_submodule*`, `*coe_to_submodule*` -> `*toSubmodule*`
- `*coe_linearMap*` -> `*toLinearMap*`
- `*to_lieHom*` -> `*toLieHom*`
- `*coe_linearEquiv*`, `*to_linearEquiv*` -> `*toLinearEquiv*`
- `*coe_lieSubalgebra*`, `*to_lieSubalgebra*` -> `*toLieSubalgebra*`

special cases:
* `LieIdeal.coe_toSubalgebra` -> `LieIdeal.coe_toLieSubalgebra`
* `LieSubalgebra.coe_to_submodule` -> `LieSubalgebra.coe_toSubmodule`
* `LieSubmodule.coe_toSubmodule` and similar: unchanged
* `sInf_coe_toSubmodule'` -> `sInf_toSubmodule_eq_iInf`
* `sSup_coe_toSubmodule'` -> `sSup_toSubmodule_eq_iSup`

PR follows [this Zulip discussion](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Algebra.2ELie.2ESubmodule.2C.20Algebra.2ELie.2ESubalgebra.20naming)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Lie/Subalgebra.lean [hunk 1]
```diff
@@ -175,34 +177,42 @@ theorem mk_coe (S : Set L) (h₁ h₂ h₃ h₄) :
...
-  to_submodule_injective.eq_iff
+  toSubmodule_injective.eq_iff
 
-@[deprecated (since := "2024-12-29")] alias coe_to_submodule_eq_iff := coe_to_submodule_inj
+@[deprecated (since := "2024-12-30")] alias coe_to_submodule_inj := toSubmodule_inj
 
-theorem coe_to_submodule : ((L' : Submodule R L) : Set L) = L' :=
+@[deprecated (since := "2024-12-29")] alias toSubmodule_eq_iff := toSubmodule_inj
+
+theorem toSubmodule : ((L' : Submodule R L) : Set L) = L' :=
```
Comment (YaelDillies) [inline Mathlib/Algebra/Lie/Subalgebra.lean:211]:
```suggestion
theorem coe_toSubmodule : ((L' : Submodule R L) : Set L) = L' :=
```

File: Mathlib/Algebra/Lie/Submodule.lean [hunk 2]
```diff
@@ -75,15 +75,15 @@ instance : Inhabited (LieSubmodule R L M) :=
 instance (priority := high) coeSort : CoeSort (LieSubmodule R L M) (Type w) where
   coe N := { x : M // x ∈ N }
 
-instance (priority := mid) coeSubmodule : CoeOut (LieSubmodule R L M) (Submodule R M) :=
+instance (priority := mid) toSubmodule : CoeOut (LieSubmodule R L M) (Submodule R M) :=
```
Comment (YaelDillies) [inline Mathlib/Algebra/Lie/Submodule.lean:78]: Looks like an over-eager replacement

File: Mathlib/Algebra/Lie/Submodule.lean [hunk 3]
```diff
@@ -225,14 +233,20 @@ instance : Coe (LieIdeal R L) (LieSubalgebra R L) :=
...
+theorem LieIdeal.coe_toLieSubalgebra (I : LieIdeal R L) : ((I : LieSubalgebra R L) : Set L) = I :=
   rfl
 
+@[deprecated (since := "2024-12-30")]
+alias LieIdeal.coe_toSubalgebra := LieIdeal.coe_toLieSubalgebra
+
 @[simp]
-theorem LieIdeal.coe_to_lieSubalgebra_to_submodule (I : LieIdeal R L) :
+theorem LieIdeal.coe_toLieSubalgebra_toSubmodule (I : LieIdeal R L) :
     ((I : LieSubalgebra R L) : Submodule R L) = LieSubmodule.toSubmodule I :=
```
Comment (YaelDillies) [inline Mathlib/Algebra/Lie/Submodule.lean:244]: This name still looks wrong. Can you clarify what the LHS and RHS are?

File: Mathlib/Algebra/Lie/Submodule.lean [hunk 4]
```diff
@@ -332,16 +349,20 @@ theorem bot_coe : ((⊥ : LieSubmodule R L M) : Set M) = {0} :=
...
-theorem bot_coeSubmodule : ((⊥ : LieSubmodule R L M) : Submodule R M) = ⊥ :=
+theorem bot_toSubmodule : ((⊥ : LieSubmodule R L M) : Submodule R M) = ⊥ :=
   rfl
 
+@[deprecated (since := "2024-12-30")] alias bot_coeSubmodule := bot_toSubmodule
+
 @[simp]
-theorem coeSubmodule_eq_bot_iff : (N : Submodule R M) = ⊥ ↔ N = ⊥ := by
-  rw [← coe_toSubmodule_inj, bot_coeSubmodule]
+theorem toSubmodule_eq_bot_iff : (N : Submodule R M) = ⊥ ↔ N = ⊥ := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/Lie/Submodule.lean:358]: While you're at it, the `_iff` is redundant here
```suggestion
theorem toSubmodule_eq_bot : (N : Submodule R M) = ⊥ ↔ N = ⊥ := by
```

File: Mathlib/Algebra/Lie/Submodule.lean [hunk 5]
```diff
@@ -355,16 +376,20 @@ theorem top_coe : ((⊤ : LieSubmodule R L M) : Set M) = univ :=
...
-theorem top_coeSubmodule : ((⊤ : LieSubmodule R L M) : Submodule R M) = ⊤ :=
+theorem top_toSubmodule : ((⊤ : LieSubmodule R L M) : Submodule R M) = ⊤ :=
   rfl
 
+@[deprecated (since := "2024-12-30")] alias top_coeSubmodule := top_toSubmodule
+
 @[simp]
-theorem coeSubmodule_eq_top_iff : (N : Submodule R M) = ⊤ ↔ N = ⊤ := by
-  rw [← coe_toSubmodule_inj, top_coeSubmodule]
+theorem toSubmodule_eq_top_iff : (N : Submodule R M) = ⊤ ↔ N = ⊤ := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/Lie/Submodule.lean:385]: Same here

File: Mathlib/Algebra/Lie/Submodule.lean [hunk 6]
```diff
@@ -502,30 +543,46 @@ theorem iSup_induction' {ι} (N : ι → LieSubmodule R L M) {C : (x : M) → (x
   · rintro ⟨_, Cx⟩ ⟨_, Cy⟩
     exact ⟨_, hadd _ _ _ _ Cx Cy⟩
 
-theorem disjoint_iff_coe_toSubmodule :
+theorem disjoint_iff_toSubmodule :
     Disjoint N N' ↔ Disjoint (N : Submodule R M) (N' : Submodule R M) := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/Lie/Submodule.lean:547]: Uh oh, this lemma is backwards. Not your problem here, but I'd leave a comment to remember it
```suggestion
-- TODO(Yaël): turn around
theorem disjoint_iff_toSubmodule :
    Disjoint N N' ↔ Disjoint (N : Submodule R M) (N' : Submodule R M) := by
```

File: Mathlib/Algebra/Lie/Submodule.lean (hunk 3 above)
Comment (artie2000) [reply Mathlib/Algebra/Lie/Submodule.lean:244]: I believe it says: coercing a Lie ideal to a Lie subalgebra, then to a (vanilla) submodule, is the same as coercing the Lie ideal to a Lie submodule, then to a (vanilla) submodule. Only the last of these 4 mappings is written out explicitly, despite all 4 coercions being registered.

**Comment by artie2000** [comment]
I've fixed the over-eager replacements @YaelDillies found, and checked that there are no others of this sort.

File: Mathlib/Algebra/Lie/Submodule.lean (hunk 3 above)
Comment (artie2000) [reply Mathlib/Algebra/Lie/Submodule.lean:243]: maybe `coe_toLieSubalgebra_eq_coe_toLieSubmodule`?

Comment (YaelDillies) [reply Mathlib/Algebra/Lie/Submodule.lean:243]: So concretely this is a commutative square. simp is better at commutative triangles... Is there not a direct coercion `LieIdeal R L` to `Submodule R L`?

Comment (YaelDillies) [reply Mathlib/Algebra/Lie/Submodule.lean:243]: To be clear, we don't have to block this PR on this issue. The new name is already a clear improvement on the previous one

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge

File: Mathlib/Algebra/Lie/Submodule.lean (hunk 3 above)
Comment (artie2000) [reply Mathlib/Algebra/Lie/Submodule.lean:243]: I don't know. To be honest I feel like Algebra/Lie/* is overusing coercions in a weird way.

Comment (artie2000) [reply Mathlib/Algebra/Lie/Submodule.lean:243]: Ah, it is a triangle!
abbrev LieIdeal := LieSubmodule R L L
def lieIdealSubalgebra (I : LieIdeal R L) : LieSubalgebra R L :=
  { I.toSubmodule with lie_mem' := by intro x y _ hy; apply lie_mem_right; exact hy }
looks like a Lie ideal is definitionally a Lie submodule that happens to also be a Lie subalgebra
and this lemma is just saying that the coercions commute

Comment (artie2000) [reply Mathlib/Algebra/Lie/Submodule.lean:243]: update: see #20408
